US06835833B2
In a 1 liter round-bottom flask, triphenylmethanol (26.0 grams, 0.100 mol; obtained from Aldrich Chemical Co., Milwaukee, Wis.) and aniline (14.6 milliliters, 0.160 mol) were added to a solution of concentrated aqueous hydrochloric acid (47 milliliters) in acetic acid (312 milliliters). The resulting solution was stirred and heated at reflux for 48 hours. The yellow solution was then cooled to room temperature and solvents were removed by evaporation under reduced pressure. Ethanol (700 milliliters) was added to dissolve all the off-white solid residue, and the stirred solution was cooled to −10° C. Sulfuric acid (52 milliliters) was then added, and the cold mixture was stirred for 20 minutes. Isopentylnitrite (31.2 milliliters; obtained from Aldrich Chemical Co.) was then added and the solution was stirred for an additional 20 minutes. Thereafter, hypophosphorous acid (89 milliliters, 50 percent by weight aqueous solution; obtained from Aldrich Chemical Co.) was added, still at −10° C., and the solution was gradually heated to reflux and stirred for 2 hours. The mixture was then cooled to room temperature, giving an off-white precipitate, which was recovered by filtration, successively washed with water, hexanes, methanol, ethanol, methanol, and finally with pentane, and dried under reduced pressure to give the targeted tetraphenylmethane as a colorless solid (28.0 grams, 90 percent yield).

reactant | triphenylmethanol | 0.100 mol, 26.0 grams | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | aniline | 0.160 mol, 14.6 milliliters | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 47 milliliters | Cl | ClH
solvent | acetic acid | 312 milliliters | C(C)(=O)O | C2H4O2
product | tetraphenylmethane | 28.0 grams, 90 percent yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20
